US06344452B1
Described specifically, di-tert-butyl dicarbonate is reacted with 2-amino-3-benzyloxycarbonylaminopropionic acid to obtain 2-tert-butoxycarbonylamino-3-benzyloxycarbonyl-aminopropion ic acid, followed by its debenzylation into 3-amino-2-tert-butoxycarbonylaminopropionic acid in the presence of a catalyst of palladium carbon and hydrogen. In the presence of a base such as potassium carbonate, 2-fluoronitrobenzene is reacted with 3-amino-2-tert-butoxy-carbonylaminopropionic acid to obtain 2-tert-butoxy-carbonylamino-3-(2-nitrophenyl)aminopropionic acid. This is subjected to catalytic reduction in the presence of a catalyst of palladium carbon, followed by refluxing under heat in toluene, whereby 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine is obtained. With this compound, 3-bromocyclohexene is reacted to obtain 2-oxo-3-tert-butoxycarbonylamino-5-(2-cyclohexen-1-yl)-1,3, 4,5-tetrahydro-2H-1,5-benzodiazepine. Hydrogenation of this compound in the presence of a catalyst of palladium carbon or platinum oxide provides the compound (A). On the other hand, dehydrogenation of 2-oxo-3-tert-butoxycarbonylamino-5-(2-cyclohexen-1-yl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazep ine in the presence of nitrobenzene and a catalyst of palladium carbon or platinum oxide provides the compound (B). When bromomethyl tert-butyl ketone is reacted with the compound (A) or (B) in the presence of a base such as potassium carbonate and deprotection is then conducted by treatment with hydrochloric acid or the like, 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-cyclohexyl(or phenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine is obtained. By reacting triphosgene and a 3-aminophenyl branched fatty acid with this compound in the presence of a base such as triethylamine, the compound (1) of the present invention can be obtained.

reactant | 3-amino-2-tert-butoxycarbonylaminopropionic acid | NCC(C(=O)O)NC(=O)OC(C)(C)C | C8H16N2O4
reactant | hydrogen | [H][H] | H2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3-amino-2-tert-butoxy-carbonylaminopropionic acid | NCC(C(=O)O)(OC(C)(C)C)N=C=O | C8H14N2O4
catalyst | palladium carbon | [C].[Pd]
product | 2-tert-butoxy-carbonylamino-3-(2-nitrophenyl)aminopropionic acid | C(C)(C)(C)OC(C(=O)O)(CNC1=C(C=CC=C1)[N+](=O)[O-])N=C=O | C14H17N3O6
